US07786108B2
Step 2. Preparation of 6-Iodo-1,3-dihydro-isobenzofuran-5-ylamine
Dropwise, add a 1.0 M solution of iodine monochloride (64 mmol) to a solution of 1,3-dihydro-isobenzofuran-5-ylamine (64 mmol) in dichloromethane (200 mL), methanol (50 mL) and sodium bicarbonate (96 mmol). After stirring for 1 h, quench the reaction with aqueous sodium metabisulfite (100 mL). Separate the organic phase and wash the aqueous with dichloromethane (2×100 mL). Combine the organics and dry over sodium sulfate. Filter the reaction and remove solvent under vacuum. Chromatograph (0-20% ethyl acetate/hexane) the crude mixture over silica gel to give the title compound as a tan solid. 1H NMR (CDCl3, 400 MHz): δ 4.10 (bs, 2H), 4.97 (s, 4H), 6.63 (s, 1H), 7.49 (s, 1H).

reactant | iodine monochloride | 64 mmol | ICl | ClI
reactant | 1,3-dihydro-isobenzofuran-5-ylamine | 64 mmol | C1OCC2=CC(=CC=C12)N | C8H9NO
reactant | sodium bicarbonate | 96 mmol | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | methanol | 50 mL | CO | CH4O
product | 6-Iodo-1,3-dihydro-isobenzofuran-5-ylamine | IC1=C(C=C2COCC2=C1)N | C8H8INO
